US06313122B1
C. 3-[(4-Methoxybenzoyl)amino]-4-[(4-tert-butylbenzoyl)amino]benzoic Acid
To a solution of methyl 3-[(4-methoxybenzoyl)amino]-4-[(4-tert-butylbenzoyl)amino]benzoate (0.487 g, 1.00 mmol) in tetrahydrofuran (32 mL) and methanol (8 mL) was added 5 N aqueous sodium hydroxide (0.6 mL). The resulting mixture was stirred for 16 h, a second portion of 5 N aqueous sodium hydroxide (0.6 mL) added, and the mixture stirred for an additional 16 h. The solvent was concentrated in vacuo and the crude product acidified with dilute aqueous hydrochloric acid and diluted with ethyl acetate. The mixture was extracted with saturated aqueous potassium carbonate solution. The aqueous layer was acidified and extracted with ethyl acetate. The organic layer was dried (magnesium sulfate), filtered, and concentrated in vacuo. Crystallization of the residue from methylene chloride/-hexane provided 376 mg (100%) of the title product.

reactant | methyl 3-[(4-methoxybenzoyl)amino]-4-[(4-tert-butylbenzoyl)amino]benzoate | 1.00 mmol, 0.487 g | COC1=CC=C(C(=O)NC=2C=C(C(=O)OC)C=CC2NC(C2=CC=C(C=C2)C(C)(C)C)=O)C=C1 | C27H28N2O5
reactant | sodium hydroxide | 5 N, 0.6 mL | [OH-].[Na+]
reactant | sodium hydroxide | 5 N, 0.6 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 32 mL | O1CCCC1 | C4H8O
solvent | methanol | 8 mL | CO | CH4O
product | 3-[(4-Methoxybenzoyl)amino]-4-[(4-tert-butylbenzoyl)amino]benzoic Acid | 376 mg, 100% | COC1=CC=C(C(=O)NC=2C=C(C(=O)O)C=CC2NC(C2=CC=C(C=C2)C(C)(C)C)=O)C=C1 | C26H26N2O5
